US07157488B2
N-(2-(4,7-Difluoro-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine
Combine 2-(4,7-difluoro-1H-indol-3-yl)ethylamine (483 mg, 2.46 mmol) and ethanol (45 mL) and stir. After 10 minutes treat with 3-(2,2,2-trifluoroethoxy)benzaldehyde (502 mg, 2.46 mmol) and anhydrous sodium sulfate (3.5 g) and stir under nitrogen and heat at 70° C. After 2 h., cool the reaction vacuum filter to remove the sodium sulfate and treat with sodium borohydride (279 mg, 7.38 mmol) in a 500 mL round bottom flask equipped with magnetic stirring. Allow the solution to stir for 2 hours at room temperature and then carefully treat with three drops of glacial acetic acid to quench the excess hydride. Remove the solvent in vacuo and re-dissolve the crude material in methanol. Purify by a 10 g SCX column by washing thoroughly with methanol, eluting with 2N ammonia in methanol, and concentrating in vacuo to give the title compound as a straw colored oil. Prepare the hydrochloride salt by dissolving the free base (800 mg, 2.08 mmol) in methanol (15 mL) and treating with a solution of ammonium chloride (111 mg, 2.08 mmol) in methanol (5 mL). Sonicate the mixture for 10 minutes before concentrating in vacuo to give a white solid. Recrystallize from ethyl acetate to obtain the hydrochloride salt of the title compound: mp 208.5–210.0° C.; 1H NMR (400 MHz, dmso-d6): 11.79 (br s, 1H), 9.21 (br s, 2H), 7.39 (t, 1H, J=7.8 Hz), 7.32 (d, 1H, J=2.0 Hz) 7.30 (s, 1H), 7.18 (d, 1H, J=8.0 Hz), 7.11 (dd, 1H, J=2.6, 8.2 Hz), 6.85–6.91 (m, 1H), 6.67–6.73 (m, 1H), 4.77 (q, 2H, J=8.8 Hz), 4.16 (s, 4H), 3.12–3.16 (m, 4H); MS (APCI): m/e 385.1 (M+1); CHN (for C19H17F5N2O.HCl) calcd: C, 54.23, H 4.31, N, 6.66; found: C, 54.20, H 4.30, N 6.66.

reactant | 2-(4,7-difluoro-1H-indol-3-yl)ethylamine | 2.46 mmol, 483 mg | FC1=C2C(=CNC2=C(C=C1)F)CCN | C10H10F2N2
reactant | 3-(2,2,2-trifluoroethoxy)benzaldehyde | 2.46 mmol, 502 mg | FC(COC=1C=C(C=O)C=CC1)(F)F | C9H7F3O2
reactant | sodium sulfate | 3.5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 7.38 mmol, 279 mg | [BH4-].[Na+]
catalyst | acetic acid | three drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | N-(2-(4,7-Difluoro-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine | FC1=C2C(=CNC2=C(C=C1)F)CCNCC1=CC(=CC=C1)OCC(F)(F)F | C19H17F5N2O
